US05312828
(iv) (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-3-methyl-2-propenoic Acid
The title compound was prepared according to Example 1(v) by using ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-3-methyl-2-propenoate in place of ethyl-(E)-3-[2-n-butyl-1-{(2-chlorgphenyl)methyl}-1H-imidazol-5-yl]-2-methyl-2-propenoate. The title compound was a white solid, and was converted to the hydrochloride salt to give 82 mg (41%); mp 198°-199.5° C. (from ethyl acetate/methanol).

reactant | ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-3-methyl-2-propenoate | C(CCC)C=1N(C(=CN1)/C(=C/C(=O)OCC)/C)CC1=C(C=CC=C1)Cl | C20H25ClN2O2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-3-methyl-2-propenoic Acid | C(CCC)C=1N(C(=CN1)/C(=C/C(=O)O)/C)CC1=C(C=CC=C1)Cl | C18H21ClN2O2
